US08212041B2
tert-Butyl 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.113 g, 0.23 mmol) was dissolved in methanol (3 mL) then added concentrated hydrochloric acid (0.500 ml, 6.0 mmol). The reaction mixture was stirred at room temperature overnight then concentrated under vacuum. The remaining solid was suspended in methanol (1 mL) then added triethylamine (0.40 ml, 2.9 mmol). The clear solution was stirred at room temperature for 2 hours then concentrated under vacuum. The sample was purified by flash chromatography eluting with 8% 7N ammonia in methanol/dichloromethane to afford 7-methoxy-4-((6-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline (0.038 g, 42% yield) as a tan solid.

reactant | tert-Butyl 4-(3-((7-methoxyquinolin-4-yloxy)methyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.23 mmol, 0.113 g | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C2=CCN(CC2)C(=O)OC(C)(C)C | C27H29N5O4
reactant | hydrochloric acid | 6.0 mmol, 0.500 ml | Cl | ClH
reactant | triethylamine | 2.9 mmol, 0.40 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 3 mL | CO | CH4O
product | 7-methoxy-4-((6-(1,2,3,6-tetrahydropyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methoxy)quinoline | 0.038 g, 42% yield | COC1=CC=C2C(=CC=NC2=C1)OCC1=NN=C2N1C=C(C=C2)C=2CCNCC2 | C22H21N5O2
